US04769493
In a 500 ml three neck distillation flask were placed 47 g (0.18 mol) of N-isopropyl-tetrafluorophthalimide, 71 ml of concentrated sulfuric acid, 43 ml of acetic acid, and 13 ml of water, and the mixture was reacted for 5 hours at 140° to 150° C. with stirring. After cooling, the reaction mixture was extracted three times with 200 ml of toluene, and the toluene layers thus formed were collected and concentrated by distillation under a reduced pressure to provide 26.3 g (yield 66.4%) of tetrafluorophthalic anhydride as white crystals.

reactant | N-isopropyl-tetrafluorophthalimide | 0.18 mol, 47 g | C(C)(C)N1C(C=2C(C1=O)=C(C(=C(C2F)F)F)F)=O | C11H7F4NO2
reactant | sulfuric acid | 71 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 43 ml | C(C)(=O)O | C2H4O2
solvent | water | 13 ml | O | H2O
product | tetrafluorophthalic anhydride | 26.3 g, yield 66.4% | FC=1C(=C(C(=C2C1C(=O)OC2=O)F)F)F | C8F4O3
